US06824709B2
A mixture of 2,7-dihydroxyfluorene (0.5 g), 4-(6-acryloyloxyhexyloxy)benzoic acid (1.62 g), EDC (1.06 g), DMAP (6.16 mg) and dichloromethane (30 mL) was stirred at a room temperature for 12 hours. Water was added to the reaction mixture to separate an organic layer, and the resulting organic layer was washed with water and dried on anhydrous magnesium sulfate. The solvent was distilled off from this organic layer under reduced pressure, and the resulting residue was purified by means of column chromatography (silica gel, eluting solvent: toluene/ethyl acetate [95/5]) and recrystallization (ethanol/ethyl acetate/toluene) to obtain 2,7-bis(4-(6-acryloyloxyhexyl)oxybenzoyloxy)fluorene (0.42 g) of colorless crystal.

reactant | 2,7-dihydroxyfluorene | 0.5 g | OC1=CC=2CC3=CC(=CC=C3C2C=C1)O | C13H10O2
reactant | 4-(6-acryloyloxyhexyloxy)benzoic acid | 1.62 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C(=O)O)C=C1 | C16H20O5
reactant | EDC | 1.06 g
reactant | dichloromethane | 30 mL | ClCCl | CH2Cl2
catalyst | DMAP | 6.16 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | Water | O | H2O
product | 2,7-bis(4-(6-acryloyloxyhexyl)oxybenzoyloxy)fluorene | 0.42 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C(=O)OC2=CC=3CC4=CC(=CC=C4C3C=C2)OC(C2=CC=C(C=C2)OCCCCCCOC(C=C)=O)=O)C=C1 | C45H46O10
